US04187216
2.6 g (0.0063 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline cycloheptylamide were dissolved in 15 ml of 4-N hydrogen bromide in acetic acid and the mixture was stirred at room temperature for 1 hour. 100 ml of anhydrous ether were added and an oil precipitated from the solution. The ether phase was decanted off and the oil washed with 100 ml of anhydrous ether. The ether layer was again decanted off and the oil dissolved in 30 ml of dry pyridine. 1.6 g (0.0126 mol) of propionic anhydride were added and the solution was stirred at room temperature for 2 hours. The pyridine was removed by evaporation, 50 ml of toluene were added to the residue and the mixture was again evaporated. The solid residue was taken up in 100 ml of chloroform and the solution was washed with sodium chloride solution and dried over magnesium sulphate. The chloroform was removed by evaporation to yield an oil. This oil was dissolved in the minimum volume of ether and petroleum ether was added, whereby a white solid crystallised out of the solution. There was obtained 1.85 g (88.1%) of N-propionyl-L-alanyl-L-proline cycloheptylamide of melting point 155°-156° C. [α]D20 =-119.4° (c=0.91% in methanol).

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline cycloheptylamide | 0.0063 mol, 2.6 g | C1(CCCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C23H33N3O4
reactant | propionic anhydride | 0.0126 mol, 1.6 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-propionyl-L-alanyl-L-proline cycloheptylamide | 1.85 g, 88.1% | C1(CCCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(CC)=O)C)=O)=O | C18H31N3O3
